US06518423B1
N-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)sulfamide
5 ml of a solution of 283 mg of chlorosulfonyl isocyanate in tetrahydrofuran was ice-cooled and 92 mg of formic acid was added thereto. After stirring at room temperature for 30 minutes, the mixture was added to a solution of 276 mg of 8-aminomethyl-10H-pyrazino[2,3-b][1,4]benzothiazine in tetrahydrofuran (5 ml) and the resulting mixture was stirred at room temperature for 20 minutes. Next, it was distributed into an aqueous solution of potassium carbonate and ethyl acetate and the aqueous layer was extracted. The aqueous layer was well washed with ethyl acetate and the organic solvent contained therein was distilled off under reduced pressure. The residual aqueous solution was purified by High-porous gel chromatography (CHP20P mfd. by Mitsubishi Chemical Industries, Ltd., 75-150 μ) (eluted with water/methanol) to thereby give 45 mg of the title compound as yellow crystals.

reactant | chlorosulfonyl isocyanate | 283 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | formic acid | 92 mg | C(=O)O | CH2O2
reactant | 8-aminomethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 276 mg | NCC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C11H10N4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)sulfamide | 45 mg | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CNS(=O)(=O)N | C11H11N5O2S2
